US03969368
Ethyl(2-phenyl-5-chloro-1,3-benzodioxol-2-yl)acetate.
78.5 g of anhydrous K2CO3 are added, in parts, to a solution of 40.5 g of ethyl phenylpropiolate and 43.5 g of chloropyrocatechol in 200 cc of anhydrous acetone. The mixture is heated for 15 h. It is subsequently filtered and the solvent eliminated at low pressure. The residue is treated as indicated in Example 2. The product has b.p. 150°-155°C/0.3 mm.

reactant | K2CO3 | 78.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl phenylpropiolate | 40.5 g | C1(=CC=CC=C1)C#CC(=O)OCC | C11H10O2
reactant | chloropyrocatechol | 43.5 g | ClC1=C(C(O)=CC=C1)O | C6H5ClO2
solvent | acetone | 200 cc | CC(=O)C | C3H6O
product | Ethyl(2-phenyl-5-chloro-1,3-benzodioxol-2-yl)acetate | C(C)OC(CC1(OC2=C(O1)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C17H15ClO4
